### PR TITLE
[Merged by Bors] - feat(Order/CompletePartialOrder): Introduce complete partial orders

### PR DESCRIPTION
**Pull request by mans0954**
This PR considers complete partial orders (sometimes called directedly complete partial orders). These are partial orders for which every directed set has a least upper bound. Complete partial orders are a natural framework for studying approximations and fixed point theorems (Davey & Priestley, Chapter 8).

---

My interest in this is that I'd like to be able to prove that a `Lattice` is a `CompleteLattice` by showing that every directed set has a least upper bound. (Specifically the [Lattice of L-projections](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Analysis/NormedSpace/MStructure.lean#L283).) i.e. a lattice which is also a complete partial order (wrt the same partial order) is a complete lattice. However, I'm not sure of the right way to put this together in Mathlib, so I'm opening this PR for comments.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ericrbg** [comment]
cc @YaelDillies - I can have a look but I feel like this is more in your wheelhouse

File: Mathlib/Order/CompletePartialOrder.lean [hunk 1]
```diff
@@ -0,0 +1,243 @@
...
+
+/-!
+# Complete Partial Order
+
+This file begins by showing that each set `s` in a join-semilattice generates a directed set `d`
+such that:
+
+- `s` is a subset of `d`
+- `s` and `d` share the same upper bounds
+- `u` is the least upper bound of `s` if and only if it is the least upper bound of `d`
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:19]: Surely that third sentence follows from the second?

File: Mathlib/Order/CompletePartialOrder.lean [hunk 2]
```diff
@@ -0,0 +1,243 @@
...
+            exact Finset.le_sup'_of_le _ h₁ (Eq.le rfl)
+          · apply le_sup_of_le_right
+            rw [hb]
+            exact Finset.le_sup'_of_le _ h₂ (Eq.le rfl)
+    · constructor
+      · exact le_sup_left
+      · exact le_sup_right
+}
+
+lemma Set_subseteq_DirectedSet {s : Set α} :
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:92]:
```suggestion
lemma subset_toDirectedSet {s : Set α} :
```

File: Mathlib/Order/CompletePartialOrder.lean [hunk 3]
```diff
@@ -0,0 +1,243 @@
...
+structure DirectedSet (α : Type _) [PartialOrder α] where
+  set : Set α
+  directed : DirectedOn (. ≤ .) set
+
+variable [SemilatticeSup α]
+
+/--
+Every subset of a join-semilattice generates a directed set
+-/
+def Set.ToDirectedSet (s : Set α) : DirectedSet α := {
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:48]: I would rather call this the directed closure.
```suggestion
def directedClosure (s : Set α) : DirectedSet α := {
```

File: Mathlib/Order/CompletePartialOrder.lean [hunk 4]
```diff
@@ -0,0 +1,243 @@
...
+
+complete partial order, directedly complete partial order
+
+-/
+
+section SemilatticeSup
+
+structure DirectedSet (α : Type _) [PartialOrder α] where
+  set : Set α
+  directed : DirectedOn (. ≤ .) set
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:41]: Will you ever consider operations on the type of directed sets? So far you don't, and if you are not going to later, you should not define `DirectedSet` and instead use `Set` directly.

File: Mathlib/Order/CompletePartialOrder.lean [hunk 5]
```diff
@@ -0,0 +1,243 @@
...
+  intro a ha
+  rw [Set.ToDirectedSet]
+  simp only [id_eq, exists_and_left, Set.mem_setOf_eq]
+  use ({a} : Finset α)
+  constructor
+  · exact Iff.mpr Finset.singleton_subset_set_iff ha
+  · use (Finset.singleton_nonempty a)
+    rfl
+
+lemma Set_DirectedSet_upperBounds {s : Set α} :
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:103]:
```suggestion
@[simp] lemma Set_DirectedSet_upperBounds (s : Set α) :
```

File: Mathlib/Order/CompletePartialOrder.lean [hunk 6]
```diff
@@ -0,0 +1,243 @@
...
+  · intro u hu
+    rw [mem_upperBounds]
+    intro b hb
+    obtain ⟨Fb,⟨H,hFb⟩⟩ := hb
+    rw [hFb.2, Finset.sup'_le_iff]
+    intro c hc
+    exact hu (hFb.1 hc)
+
+lemma Set_DirectedSet_LUB [SemilatticeSup α] {s : Set α} {u : α} : IsLUB s u ↔
+    IsLUB (Set.ToDirectedSet s).set u := by
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:117]:
```suggestion
@[simp] lemma Set_DirectedSet_LUB [SemilatticeSup α] {s : Set α} {u : α} :
    IsLUB (Set.ToDirectedSet s).set u ↔ IsLUB s u := by
```

File: Mathlib/Order/CompletePartialOrder.lean [hunk 7]
```diff
@@ -0,0 +1,243 @@
...
+      exact Set.mem_of_mem_inter_left h
+    · intro v hv
+      rw [← Set_DirectedSet_upperBounds] at hv
+      exact Iff.mpr (isLUB_le_iff h) hv
+
+/--
+A join semi-lattice where every directed subset has a least upper bound is automatically complete
+-/
+def SemilatticeSup.toCompleteSemilatticeSup (dSup : DirectedSet α → α)
+    (h : ∀ (d : DirectedSet α), IsLUB d.set (dSup d)) : CompleteSemilatticeSup α where
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:139]: and here you could do
```suggestion
def SemilatticeSup.toCompleteSemilatticeSup (dSup : Set α → α)
    (h : ∀ d, DirectedOn (. ≤ .) d → IsLUB d (dSup d)) : CompleteSemilatticeSup α where
```

**Review by YaelDillies — COMMENTED** [review]
Oh yeah, quite! This was on my TODO list.

@mans0954, I have a solid idea for how the API should look like, so I'm happy to make this PR mergeable for you.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/Order/CompletePartialOrder.lean]: Done, thanks.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Order/CompletePartialOrder.lean:41]: @YaelDillies I was basing this on `Order.OmegaCompletePartialOrder` since this seems to be the non-countable analogue.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/Order/CompletePartialOrder.lean]: @YaelDillies not sure I follow this one... `dSup` is only defined on sets which are directed.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Order/CompletePartialOrder.lean]: Yes, I've removed the second.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/Order/CompletePartialOrder.lean]: I guess, if it's a `SemilatticeSup` a function `f` on the directed sets can always be extended to all sets by composition with `directedClosure`.

File: Mathlib/Order/CompletePartialOrder.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Order/CompletePartialOrder.lean]: Okay, I've removed `DirectedSet` and used `Set` instead.

**Comment by YaelDillies** [comment]
Just pushed a cleanup. I think this is ready to go, except that I suspect that:
* You might want to add a few more lemmas in the style of `DirectedOn.sSup_le`, `Directed.le_iSup`...
* I'm not sure `directedClosure` belongs in this file.

**Comment by mans0954** [comment]
> * I'm not sure `directedClosure` belongs in this file.

@YaelDillies I thought about putting it in `Order/Directed`, but this doesn't work because importing `Finset` causes a build cycle:
```
`/home/mans0954/.elan/toolchains/leanprover--lean4---v4.0.0-rc4/bin/lake print-paths Init Mathlib.Data.Set.Image Mathlib.Data.Finset.Basic Mathlib.Order.Lattice Mathlib.Order.Max Mathlib.Order.Bounds.Basic` failed:

stderr:
error: build cycle detected:
  +Mathlib.Data.Finset.Basic:lean.precompileImports
  +Mathlib.Order.Directed:lean.precompileImports
  +Mathlib.Order.CompleteBooleanAlgebra:lean.precompileImports
  +Mathlib.Data.Set.Lattice:lean.precompileImports
  +Mathlib.Data.Finset.Basic:lean.precompileImports
```
Where else would you suggest?

File: Mathlib/Order/CompletePartialOrder.lean [hunk 8]
```diff
@@ -36,56 +33,19 @@ partial orders). These are partial orders for which every directed set has a lea
...
 /--
 A join-semilattice where every directed set has a least upper bound is automatically complete.
 -/
 def SemilatticeSup.toCompleteSemilatticeSup (sSup : Set α → α)
     (h : ∀ d, DirectedOn (. ≤ .) d → IsLUB d (sSup d)) : CompleteSemilatticeSup α where
   sSup := fun s => sSup (directedClosure s)
-  le_sSup s a ha := (h _ $ directedOn_directedClosure s).1 $ subset_directedClosure ha
-  sSup_le s a ha := (isLUB_le_iff $ h _ $ directedOn_directedClosure s).2 $ by
+  le_sSup s a ha := (h _ $ directedOn_directedClosure).1 $ subset_directedClosure ha
+  sSup_le s a ha := (isLUB_le_iff $ h _ $ directedOn_directedClosure).2 $ by
```
Comment (YaelDillies) [inline Mathlib/Order/CompletePartialOrder.lean:48]:
```suggestion
  le_sSup s a ha := (h _ directedOn_directedClosure).1 $ subset_directedClosure ha
  sSup_le s a ha := (isLUB_le_iff $ h _ directedOn_directedClosure).2 $ by
```

File: Mathlib/Order/Directed/Closure.lean [hunk 9]
```diff
@@ -0,0 +1,59 @@
...
+`directedClosure s` such that:
+* `subset_directedClosure`: `s` is a subset of `directedClosure s`
+* `directedOn_directedClosure`: `directedClosure s` is directed
+* `isLUB_directedClosure`: `u` is the least upper bound of `s` if and only if it is the least upper
+  bound of `directedClosure s`
+
+## Main declarations
+
+* `directedClosure`: Directed set generated by a given set.
+
```
Comment (YaelDillies) [inline Mathlib/Order/Directed/Closure.lean:19]: I think this section is now unnecessary.
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
`directedClosure` *is* a closure operator, but the closure predicate is not directedness but sup-closure. As a result, we instead get a sup-closure operator and I've updated the file accordingly.

In fact, the two files are now distinct enough that they don't need to import each other, so I've moved the sup-closure material to #6901.

Hence I believe this PR is ready to merge.
maintainer merge

**Comment by kmill** [comment]
Thanks!

bors r+
